US07071175B1
(b) 3-[3-(6-Amino-pyridin-3-yl)-2-ethoxycarbonyl-propyldisulfanyl]-2-(6-amino-pyridin-3-ylmethyl)-propionic acid ethyl ester
Etylacetate saturated with HCl (g) (15 mL) was added to a solution of 3-[3-(6tert-butoxycarbonylamino-pyridin-3-yl)-2-ethoxycarbonyl-propyldisulfanyl]-2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-propionic acid ethyl ester (130 mg, 0.191 mmol) in ethylacetate (7 mL) at 0° C. The reaction was allowed to attain room temperature and was stirred for 19 h, then evaporated under reduced pressure. The residue was dissolved in water, saturated aqueous Na2CO3 was added and the aqueous phase was extracted with CH2Cl2. The organic layer was dried and concentrated under reduced pressure to give the title compound (90 mg, 98%).

reactant | HCl | 15 mL | Cl | ClH
reactant | 3-[3-(6tert-butoxycarbonylamino-pyridin-3-yl)-2-ethoxycarbonyl-propyldisulfanyl]-2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-propionic acid ethyl ester | 0.191 mmol, 130 mg | C(C)OC(C(CSSCC(CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)C(=O)OCC)CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C32H46N4O8S2
solvent | ethylacetate | 7 mL | C(C)OC(C)=O | C4H8O2
product | 3-[3-(6-Amino-pyridin-3-yl)-2-ethoxycarbonyl-propyldisulfanyl]-2-(6-amino-pyridin-3-ylmethyl)-propionic acid ethyl ester | 90 mg, 98% | C(C)OC(C(CSSCC(CC=1C=NC(=CC1)N)C(=O)OCC)CC=1C=NC(=CC1)N)=O | C22H30N4O4S2
